US04544667
5-Bromomethyl-2-sulfamoylbenzo[b]furan
A suspension of 5-methoxymethyl-2-sulfamoylbenzo[b]furan in dry methylene chloride cooled to -30° C. is treated with boron tribromide to provide the title compound.

reactant | 5-methoxymethyl-2-sulfamoylbenzo[b]furan | COCC1=CC2=C(OC(=C2)S(N)(=O)=O)C=C1 | C10H11NO4S
reactant | boron tribromide | B(Br)(Br)Br | BBr3
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 5-Bromomethyl-2-sulfamoylbenzo[b]furan | BrCC1=CC2=C(OC(=C2)S(N)(=O)=O)C=C1 | C9H8BrNO3S
